US05925662
1.2. 2-(2-Hydroxy-3,3,3-trifluoropropyl)-3,4-dihydro-2H-1-benzopyran
To a solution of 7.6 g (43 mmol) of 3,4-dihydro-2H-1-benzopyran-2-acetaldehyde in 110 ml of tetrahydrofuran are added dropwise, at -10° C., 7.1 ml (52 mmol) of trifluorotrimethylsilylmethane and a solution of 90 mg (2 mg/mmol) of tetrabutylammonium fluoride in 5 ml of tetrahydrofuran. The mixture is allowed to react for 2 hours at 0° C., then it is hydrolyzed for 2 hours using a 1M solution of hydrochloric acid and the product is extracted with diethyl ether. The organic phase is then washed with water, dried over sodium sulfate and then concentrated under reduced pressure. By chromatography of the residue on a silica column using a 50/50 mixture of dichloromethane and of cyclohexane, 8.6 g of product are obtained in oil form.

reactant | 3,4-dihydro-2H-1-benzopyran-2-acetaldehyde | 43 mmol, 7.6 g | O1C(CCC2=C1C=CC=C2)CC=O | C11H12O2
reactant | trifluorotrimethylsilylmethane | 52 mmol, 7.1 ml | FC([Si](C)(C)C)(F)F | C4H9F3Si
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | tetrabutylammonium fluoride | 90 mg | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-(2-Hydroxy-3,3,3-trifluoropropyl)-3,4-dihydro-2H-1-benzopyran | 8.6 g | OC(CC1OC2=C(CC1)C=CC=C2)C(F)(F)F | C12H13F3O2
